US06171664B2
36.6 g of [4-(4-p-tolylethynylphenyl)cyclohexyl]methanol were mixed with 300 ml of dichloromethane, and a mixture of 21 g of Celite and 28.5 g of pyridinium chlorochromate (PCC) were added under a nitrogen atmosphere. The reaction mixture was stirred overnight at RT. 100 ml of isopropanol were then added to the black suspension, and the mixture was stirred at RT for 1½ hours in order to destroy the excess PCC. This suspension was then filtered, and the filtrate was subjected to conventional work-up, giving 4-(4-p-tolylethynylphenyl)cyclohexanecarbaldehyde in the form of a colorless solid.

reactant | [4-(4-p-tolylethynylphenyl)cyclohexyl]methanol | 36.6 g | C1(=CC=C(C=C1)C#CC1=CC=C(C=C1)C1CCC(CC1)CO)C | C22H24O
reactant | dichloromethane | 300 ml | ClCCl | CH2Cl2
reactant | pyridinium chlorochromate | 28.5 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 4-(4-p-tolylethynylphenyl)cyclohexanecarbaldehyde | C1(=CC=C(C=C1)C#CC1=CC=C(C=C1)C1CCC(CC1)C=O)C | C22H22O
